US07888354B2
Preparation of 1-[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]pyrrolidine-2-one
To a suspension of 4-chloro-N-[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]butylamide obtained in Example 29-(2) (0.224 g) in tetrahydrofuran (2.0 mL), sodium hydride (55% in mineral oil, 0.111 g) was added and stirred at room temperature for 30 minutes. The reaction mixture was diluted with water and extracted with chloroform. The organic layer was washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by NH-type silica gel column chromatography (eluting solvent: chloroform:methanol=100:1), and the resulting crystal was washed with diisopropyl ether to give the titled compound (0.127 g) as a light-yellow solid.

reactant | 4-chloro-N-[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]butylamide | ClC(CCC[NH-])C=1C=NN(C1)C1=CC=C(C=C1)OCCCN1[C@@H](CCC1)C
reactant | sodium hydride | 0.111 g | [H-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 1-[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]pyrrolidine-2-one | 0.127 g | C[C@H]1N(CCC1)CCCOC1=CC=C(C=C1)N1N=CC(=C1)N1C(CCC1)=O | C21H28N4O2
